* Operational-amplifier models for KiCad/ngspice
* TL072 is converted from an official Texas Instruments PSpice model.
* UA741 and LM358 are ngspice-native generic models calibrated to TI data sheets.
* Public subcircuits use physical PDIP-8 pin order.
*
* UA741 data sheet: https://www.ti.com/lit/ds/symlink/ua741.pdf
* TL072 source: https://www.ti.com/lit/zip/sloj067
* LM358 data sheet: https://www.ti.com/lit/ds/symlink/lm358.pdf
*
* ngspice conversions:
* - PSpice POLY sources in TL072 were replaced by equivalent B sources.
* - Internal subcircuits and models are uniquely prefixed to avoid conflicts.
*
.SUBCKT UA741CP OFFSET_N1 IN- IN+ VEE OFFSET_N2 OUT VCC
X_CORE IN+ IN- VCC VEE OUT __UA741_CORE
.ENDS UA741CP

.SUBCKT TL072CP OUT1 IN1- IN1+ VEE IN2+ IN2- OUT2 VCC
X_A IN1+ IN1- VCC VEE OUT1 __TL072_CORE
X_B IN2+ IN2- VCC VEE OUT2 __TL072_CORE
.ENDS TL072CP

.SUBCKT LM358P OUT1 IN1- IN1+ VEE IN2+ IN2- OUT2 VCC
X_A IN1+ IN1- VCC VEE OUT1 __LM358_CORE
X_B IN2+ IN2- VCC VEE OUT2 __LM358_CORE
.ENDS LM358P
* Generic UA741 model for KiCad/ngspice
* Calibrated from the electrical characteristics in the TI UA741 data sheet.
* Models 106 dB DC gain, 1 MHz gain-bandwidth product, 0.5 V/us slew rate,
* 2 Mohm differential input resistance, 75 ohm output resistance, and typical
* output swing limits. Offset-null pins, noise, input common-mode limiting, and
* output-current limiting are intentionally not modeled.
.SUBCKT __UA741_CORE INP INM VCC VEE OUT
R_INPUT INP INM 2MEG
B_GAIN 0 N_GAIN I=(2M*V(INP,INM)>159N) ? 159N : ((2M*V(INP,INM)<-159N) ? -159N : 2M*V(INP,INM))
R_GAIN N_GAIN 0 100MEG
C_GAIN N_GAIN 0 318P
B_LIMIT N_LIMIT 0 V=(V(N_GAIN)<V(VEE)+1.5) ? V(VEE)+1.5 : ((V(N_GAIN)>V(VCC)-1.5) ? V(VCC)-1.5 : V(N_GAIN))
R_OUTPUT N_LIMIT OUT 75
.ENDS __UA741_CORE


* TL072 OPERATIONAL AMPLIFIER "MACROMODEL" SUBCIRCUIT
* CREATED USING PARTS RELEASE 4.01 ON 06/16/89 AT 13:08
* (REV N/A)      SUPPLY VOLTAGE: +/-15V
* CONNECTIONS:   NON-INVERTING INPUT
*                | INVERTING INPUT
*                | | POSITIVE POWER SUPPLY
*                | | | NEGATIVE POWER SUPPLY
*                | | | | OUTPUT
*                | | | | |
.SUBCKT __TL072_CORE 1 2 3 4 5
*
  C1   11 12 3.498E-12
  C2    6  7 15.00E-12
  DC    5 53 __TL072_DX
  DE   54  5 __TL072_DX
  DLP  90 91 __TL072_DX
  DLN  92 90 __TL072_DX
  DP    4  3 __TL072_DX
  B_EGND 99 0 V=0.5*V(3)+0.5*V(4)
  B_FB 7 99 I=4.715E6*I(VB)-5E6*I(VC)+5E6*I(VE)+5E6*I(VLP)-5E6*I(VLN)
  GA    6  0 11 12 282.8E-6
  GCM   0  6 10 99 8.942E-9
  ISS   3 10 DC 195.0E-6
  HLIM 90  0 VLIM 1K
  J1   11  2 10 __TL072_JX
  J2   12  1 10 __TL072_JX
  R2    6  9 100.0E3
  RD1   4 11 3.536E3
  RD2   4 12 3.536E3
  RO1   8  5 150
  RO2   7 99 150
  RP    3  4 2.143E3
  RSS  10 99 1.026E6
  VB    9  0 DC 0
  VC    3 53 DC 2.200
  VE   54  4 DC 2.200
  VLIM  7  8 DC 0
  VLP  91  0 DC 25
  VLN   0 92 DC 25
.MODEL __TL072_DX D(IS=800.0E-18)
.MODEL __TL072_JX PJF(IS=15.00E-12 BETA=270.1E-6 VTO=-1)
.ENDS __TL072_CORE


* Generic LM358 model for KiCad/ngspice
* Calibrated from the electrical characteristics in the TI LM358 data sheet.
* Models 100 dB DC gain, 700 kHz gain-bandwidth product, 0.3 V/us slew rate,
* 5 Mohm differential input resistance, 50 ohm output resistance, and the
* typical output swing limits. Input noise and output-current limiting are
* intentionally not modeled.
.SUBCKT __LM358_CORE INP INM VCC VEE OUT
R_INPUT INP INM 5MEG
B_GAIN 0 N_GAIN I=(1M*V(INP,INM)>68N) ? 68N : ((1M*V(INP,INM)<-68N) ? -68N : 1M*V(INP,INM))
R_GAIN N_GAIN 0 100MEG
C_GAIN N_GAIN 0 227P
B_LIMIT N_LIMIT 0 V=(V(N_GAIN)<V(VEE)+20M) ? V(VEE)+20M : ((V(N_GAIN)>V(VCC)-1.5) ? V(VCC)-1.5 : V(N_GAIN))
R_OUTPUT N_LIMIT OUT 50
.ENDS __LM358_CORE
