* Linear potentiometer subcircuit
* Terminal order: A (top), W (wiper), B (bottom)
*
* Parameters:
*   R   = total resistance (ohms)
*   POS = wiper position (0..1), 0 = at B, 1 = at A
*   RW  = wiper contact resistance (ohms)

.SUBCKT POTLIN A W B PARAMS: R=10k POS=0.5 RW=0.1

* Internal node for the wiper
R_TOP  A    WINT   {R*POS + 1u}     ; upper resistance
R_BOT  WINT B      {R*(1-POS) + 1u} ; lower resistance
R_W    WINT W      {RW}             ; wiper contact resistance

.ENDS POTLIN
