**********************************************************
*
* BCM61B
*
* Nexperia
*
* Matched double NPN/NPN Transistor
* IC   = 100 mA
* VCEO = 45 V 
* hFE  = 200 - 450 @ 5V/2mA
*
*
*
*
* Package pinning does not match Spice model pinning.
* Package: SOT 143
* 
* Package Pin 1:   Collector;Base   	TR2;TR1,TR2
* Package Pin 2:   Collector        	TR1
* Package Pin 3;4: Emitter          	TR1;TR2
* 
*
* Extraction date (week/year): 27/2022
* Spicemodel includes temperature dependency
*
**********************************************************
*#
* Please note: The following model is to be used twice in 
* schematic due to equality of both Transistors.
*
* Diode D1, Transistor Q2 and resistor RQ
* are dedicated to improve modeling of quasi
* saturation area and reverse mode operation
* and do not reflect physical devices.
*
.SUBCKT BCM61B 1 2 3 4
Q1 1 2 3 MAIN 0.9699
Q2 11 2 3 MAIN 0.03006
RQ 11 1 439.6
Rjump 3 4 0
D1 2 1 DIODE
*
.MODEL MAIN NPN
+ IS = 1.01E-14
+ NF = 0.9819
+ ISE = 2.735E-17
+ NE = 1.158
+ BF = 270
+ IKF = 0.03062
+ VAF = 15.18
+ NR = 0.9831
+ ISC = 2.622E-17
+ NC = 1.227
+ BR = 7.71
+ IKR = 0.03105
+ VAR = 17.89
+ RB = 76
+ IRB = 0.00015
+ RBM = 1.143
+ RE = 0.4442
+ RC = 0.4102
+ XTB = 0.7604
+ EG = 1.11
+ XTI = 0
+ CJE = 1.331E-11
+ VJE = 0.6595
+ MJE = 0.338
+ TF = 5E-10
+ XTF = 20
+ VTF = 2.949
+ ITF = 0.2391
+ PTF = 0
+ CJC = 3.92E-12
+ VJC = 0.4551
+ MJC = 0.3
+ XCJC = 1
+ TR = 1E-07
+ CJS = 0
+ VJS = 0.75
+ MJS = 0.333
+ FC = 0.78
.MODEL DIODE D
+ IS = 1.647E-15
+ N = 0.9889
+ BV = 1000
+ IBV = 0.001
+ RS = 1993
+ CJO = 0
+ VJ = 1
+ M = 0.5
+ FC = 0
+ TT = 0
+ EG = 1.11
+ XTI = 3
.ENDS
*