********************************
* Copyright:                   *
* Vishay Intertechnology, Inc. *
********************************
BZX55C5V1			

* Technology:        DISCRETE DEVICE			
* Device:            Zener Diode BZX 55C 5V1			
* Type:              Typical (nom)			
* Model established: 12.11.1996, by S.Reuter, TM1iC63-HN			
* Wafer:			
* Remarks:           Macro model			
* Revision:			
* Simulator:         PSPICE			

.subckt BZX5V1 a c			

 DF a c DFOR			
 DR c a DREV			
 DB b a DBRE			
 EB c b POLY(1) d 0 3.6 1
 IB 0 d 1m
 RB 0 d 1k TC=3m

.model DFOR D (IS=1p RS=3.5 N=1.4 CJO=178p VJ=610m M=335m FC=700m XTI=3 EG=1.186)
.model DREV D (IS=100f N=30 XTI=3 EG=1.186)
.model DBRE D (IS=10f RS=6 N=1 XTI=0 EG=1.186)

.ends BZX5V1			
